Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.04461954001
[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9][H:10],4.56083209654
[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-7.216295671719999
[H:1][C:2]([H:3])[C:4]([O:5][C:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]=[C:11]([H:12])[H:13].[O:5]=[C:6][C:7]([H:8])([H:9])[H:10],-1.5110838605
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])=[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4],1.35895518639
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9](=[O:10])[H:11]>>[C:5]([H:6])=[C:7]([H:8])[C:9](=[O:10])[H:11].[O:1]=[C:2]([H:3])[H:4],1.32962117898
[C:1]#[C:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[C:1]#[C:2][C:3][C:8]([H:9])[H:10].[C:4]([H:5])([H:6])=[C:7],1.54991729197
[C:2](=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-3.5193631319
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])[H:5],3.78082673232
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3](=[O:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.308292242401
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12].[H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.92555603518
[C:3]([H:4])([H:5])=[C:6][O:7][H:8].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8],-3.19810374764
[C:3](=[C:4](\[H:5])[O:6][H:7])\[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]>>[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-6.1367123907000005
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.49749090448
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],3.80679376814
[H:1][C:2][O:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2].[O:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],6.0521000466100014
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[O:1][O:2][C:3]([H:4])[H:5],3.29325847436
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][O:9][H:10]>>[C:7]#[C:8][O:9][H:10].[H:1][C:2]=[C:3]([H:4])[C:5][H:6],6.34693561407
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],1.73626104718
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],3.6990126028
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:8],1.90496624941
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[H:8])\[C:9]([H:10])([H:11])[H:12].[O:1],5.88649187337
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]1[C:7]([H:8])([H:9])[O:10][C:11]1([H:12])[H:13],-0.0996919754698
[H:1][O:2][C:3]1[O:4][C:5]([H:6])([H:7])[C:8]1([H:9])[H:10]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8]([H:9])[H:10],0.18133901511
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11]>>[C:7]([H:8])#[C:9][O:10][H:11].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],1.29519994717
[O:1]=[C:2]/[C:3](=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3](=[C:4](\[H:5])[O:6][H:7])\[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2],1.57165856246
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[O:7][H:8],2.8944770671900004
[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4]([H:5])[C:10]([H:11])([H:12])[H:13],1.32043757995
